US04668823
U.S. Pat. No. 2,934,564 relates to compounds of the general formula R2PX wherein R represents an alkyl or aryl group and X represents chlorine, bromine or iodine. For example, the reaction of Me2NPCl2 (0.42 mole) with p-tolylmagnesium bromide (0.84 mole) produces dimethylamino-di-p-tolylphosphine. The isolated dimethylamino-di-p-tolylphosphine (31.88 mmoles) was treated with 1428 cc (63.75 mmoles) of anhydrous HCl yielding di-p-tolylchlorophosphine, which was purified by distillation. Similarly, Burg, et al. (J.A.C.S. 80, 1107-09, 1958) disclose the preparation of chlorodimethylphosphine from Me2NPCl2 and suggest the viability of a Grignard route to R2PR'-type phosphines. K. Issleib, et al. (Chem. Berichte 29, 2682-3008, 1959) have shown that Et2NPCl2 (Et=ethyl) and cyclohexylmagnesium chloride react in a 1:1.25 molar ratio to form diethylaminocyclohexylchlorophosphine in 57.5% yield. The authors suggest this reaction can be exploited to prepare unsymmetrical chlorophosphines of the type RR'PCl, but no mention is made of the possibility of further reaction to unsymmetrical tertiary phosphines of the type RR'R"P.

reactant | chlorine | ClCl | Cl2
reactant | bromine | BrBr | Br2
reactant | iodine | II | I2
reactant | Me2NPCl2 | 0.42 mole | N(C)(C)P(Cl)Cl | C2H6Cl2NP
reactant | p-tolylmagnesium bromide | 0.84 mole | C1(=CC=C(C=C1)[Mg]Br)C
product | dimethylamino-di-p-tolylphosphine | CN(C)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C16H20NP
